US06211242B1
To a mixture of 4-[2-(4-methylphenyl)benzoyl]-aminobenzoic acid (166 mg) and triethylamine (0.07 ml) in dichloromethane (10 ml) was added diphenylphosphoryl chloride (130 mg) and the solution was stirred at ambient temperature for 1 hour. To the resulting solution were added triethylamine (0.07 ml) and N-methylcyclohexylamine (56.6 mg) and the solution was stirred at ambient temperature for 4 hours. The solution was washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo to give an oil and the oil was subjected to silica gel column (10 g, 1% methanol in chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-cyclohexylbenzamide (102 g) as a colorless amorphous.

reactant | 4-[2-(4-methylphenyl)benzoyl]-aminobenzoic acid | 166 mg | CC1=CC=C(C=C1)C1=C(C(=O)C2=CC(=C(C(=O)O)C=C2)N)C=CC=C1 | C21H17NO3
reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl chloride | 130 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | N-methylcyclohexylamine | 56.6 mg | CNC1CCCCC1 | C7H15N
reactant | methanol | 10 g | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-cyclohexylbenzamide | 102 g | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2CCCCC2)C)C=C1 | C28H30N2O2
